US08563577B2
To a suspension of 2-oxoacetic acid hydrate (156 mg, 1.70 mmol) and methyl 3-aminothiophene-2-carboxylate (267 mg, 1.70 mmol) in acetonitrile (15 ml), was added 6-methoxypyridin-3-ylboronic acid (260 mg, 1.70 mmol). The reaction was refluxed for 2 hours, and the solvent was evaporated to obtain 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-(6-methoxypyridin-3-yl)acetic acid (548 mg, 100% yield). The product was used for the next step without any further purification.

reactant | 2-oxoacetic acid hydrate | 1.70 mmol, 156 mg | O.O=CC(=O)O
reactant | methyl 3-aminothiophene-2-carboxylate | 1.70 mmol, 267 mg | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | 6-methoxypyridin-3-ylboronic acid | 1.70 mmol, 260 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-(6-methoxypyridin-3-yl)acetic acid | 548 mg, 100% yield | COC(=O)C=1SC=CC1NC(C(=O)O)C=1C=NC(=CC1)OC | C14H14N2O5S
